US08017775B2
5-Hydroxymethyl-6-(2-hydroxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1)
Under argon atmosphere, lithium aluminum hydride (1.48 g, 39.0 mmol) was suspended in anhydrous tetrahydrofuran (30 mL). A solution of 2,2,4-Trimethyl-1,2-dihydro-6-oxa-1-azachrysen-5-one (Reference Compound No. 1-1, 3.80 g, 13.0 mmol) in anhydrous tetrahydrofuran (40 mL) was added dropwise at 0° C. and the reaction mixture was stirred at the same temperature for 1 hour. Ethyl acetate (15 mL) and water (5 mL) were added dropwise successively to the reaction mixture and then 0.2 N aqueous HCl solution (350 mL) was added thereto. The whole was extracted with ethyl acetate (300 mL, 100 mL). The combined organic layer was washed with water (300 mL) and saturated brine (100 mL) successively, dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the titled reference compound (4.01 g) as a pale brown solid. (Yield quantitative)

reactant | lithium aluminum hydride | 39.0 mmol, 1.48 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,2,4-Trimethyl-1,2-dihydro-6-oxa-1-azachrysen-5-one | CC1(NC2=CC=C3C4=CC=CC=C4OC(C3=C2C(=C1)C)=O)C | C19H17NO2
reactant | Ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
reactant | HCl | 0.2 N, 350 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 5-Hydroxymethyl-6-(2-hydroxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 4.01 g | OCC1=C2C(=CC(NC2=CC=C1C1=C(C=CC=C1)O)(C)C)C | C19H21NO2
